US08003662B2
Step A: Preparation of 7-(6-chloropyridin-3-yloxy)-2-iodothieno[3,2-b]pyridine:
Related methodology was described in WO 2005/121125. A stirred mixture of 7-chloro-2-iodothieno[3,2-b]pyridine (1.48 g, 5.00 mmol, prepared according to Ragan, J. A. Org. Proc. Res. 2003, 7, 676), cesium carbonate (2.44 g, 7.50 mmol), and DMF (50 mL) was heated to 135° C. under nitrogen with an attached reflux condenser. Next a solution of 6-chloropyridin-3-ol (0.972 g, 7.50 mmol) in DMF (20 mL) was added dropwise by syringe (2 mL approx every 5 min over a period of 50 minutes). The reaction was heated for 4 hours more after addition was complete. The reaction was left stirring at room temperature for 18 hours for convenience. The dark mixture was partitioned between EtOAc (100 mL) and water (100 mL). The phases were separated, and the aqueous phase was re-extracted with EtOAc (50 mL). The combined organic phases were washed with water (3×200 mL), brine (200 mL), dried (Na2SO4), filtered, and concentrated in vacuo. The crude was purified by Biotage Flash 40M, eluting with 20% EtOAc/hexanes (1 L) followed by 1:1 EtOAc/hexanes (1 L). The product was obtained as a beige solid (628 mg, 32%). 1H NMR (400 MHz, CDCl3) δ 8.49 (d, J=6 Hz, 1H), 8.33 (d, J=2 Hz, 1H), 7.80 (s, 1H), 7.48 (m, 1H), 7.43 (d, J=9 Hz, 1H), 6.54 (d, J=6 Hz, 1H).

reactant | 7-chloro-2-iodothieno[3,2-b]pyridine | ClC1=C2C(=NC=C1)C=C(S2)I | C7H3ClINS
reactant | cesium carbonate | 7.50 mmol, 2.44 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 6-chloropyridin-3-ol | 7.50 mmol, 0.972 g | ClC1=CC=C(C=N1)O | C5H4ClNO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 7-(6-chloropyridin-3-yloxy)-2-iodothieno[3,2-b]pyridine | 628 mg, 32% | ClC1=CC=C(C=N1)OC1=C2C(=NC=C1)C=C(S2)I | C12H6ClIN2OS
